US04317917
Using the method of example 4, 14.815 g(0.1 moles) of 3-phenyl-2-propenoic acid and 20.82 g of SOCl2 (0.175 moles) followed by 15.24 g of 2-hydroxy-3-methylbenzoic acid (0.1 moles) give 23.1 g of 2-(3-phenyl-2-propenoyloxy)-3-methylbenzoic acid (yield 81.8%), m.p. 141°-141.5° C.

reactant | 3-phenyl-2-propenoic acid | 0.1 moles, 14.815 g | C1(=CC=CC=C1)C=CC(=O)O | C9H8O2
reactant | SOCl2 | 0.175 moles, 20.82 g | O=S(Cl)Cl | Cl2OS
reactant | 2-hydroxy-3-methylbenzoic acid | 0.1 moles, 15.24 g | OC1=C(C(=O)O)C=CC=C1C | C8H8O3
product | 2-(3-phenyl-2-propenoyloxy)-3-methylbenzoic acid | 23.1 g, yield 81.8% | C1(=CC=CC=C1)C=CC(=O)OC1=C(C(=O)O)C=CC=C1C | C17H14O4
